US08859571B2
A mixture of 3-({7-[(3-chloropropyl)oxy]-4-quinazolinyl}amino)-N-methyl-4-[(2,2,2-trifluoroethyl)oxy]benzenesulfonamide (150 mg, 0.297 mmol) in MeOH (3 mL) was treated with a solution of 25% sodium methoxide in methanol (3 g, 13.88 mmol) and subjected to microwave irradiation (100° C.) for 10 minutes before being cooled and neutralized with the addition of concentrated HCl. The resulting solution was diluted with saturated aqueous NaHCO3 and extracted with CH2Cl2. The organic extracts were dried (sodium sulfate), concentrated, and subjected to reverse phase HPLC (30-70% MeCN/aq. NH4OH pH 10, XBridge C18 OBD 30×150 mm, 5 μm) to give N-methyl-3-[(7-{[3-(methyloxy)propyl]oxy}-4-quinazolinyl)amino]-4-[(2,2,2-trifluoroethyl)oxy]benzenesulfonamide (37 mg, 25%) as a white solid.

reactant | 3-({7-[(3-chloropropyl)oxy]-4-quinazolinyl}amino)-N-methyl-4-[(2,2,2-trifluoroethyl)oxy]benzenesulfonamide | 0.297 mmol, 150 mg | ClCCCOC1=CC=C2C(=NC=NC2=C1)NC=1C=C(C=CC1OCC(F)(F)F)S(=O)(=O)NC | C20H20ClF3N4O4S
reactant | sodium methoxide | C[O-].[Na+]
reactant | HCl | Cl | ClH
solvent | MeOH | 3 mL | CO | CH4O
solvent | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | methanol | 13.88 mmol, 3 g | CO | CH4O
product | N-methyl-3-[(7-{[3-(methyloxy)propyl]oxy}-4-quinazolinyl)amino]-4-[(2,2,2-trifluoroethyl)oxy]benzenesulfonamide | 37 mg, 25% | CNS(=O)(=O)C1=CC(=C(C=C1)OCC(F)(F)F)NC1=NC=NC2=CC(=CC=C12)OCCCOC | C21H23F3N4O5S
